US08183245B2
To a stirred solution of 1,1,1-trifluoro-2,3-epoxypropane (2.0 g, 18 mmol) in 70% ethanol (20 mL) was added ammonium chloride (1.9 g, 36 mmol) followed by sodium azide (2.3 g, 36 mmol). The reaction mixture was stirred at room temperature. After 6 h, the reaction mixture was partitioned between water (100 mL) and diethyl ether (100 mL). The organic layer was washed with additional water (100 mL). The first aqueous layer was back-extracted with diethyl ether (100 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated to give 3-azido-1,1,1-trifluoropropan-2-ol as a crude oil. 1H NMR (600 MHz, DMSO-D6) 4.14 (m, 1H); 3.58-3.49 (m, 2H); 2.58 (d, 1H).

reactant | 1,1,1-trifluoro-2,3-epoxypropane | 18 mmol, 2.0 g | FC(C1CO1)(F)F | C3H3F3O
reactant | ammonium chloride | 36 mmol, 1.9 g | [Cl-].[NH4+]
reactant | sodium azide | 36 mmol, 2.3 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-azido-1,1,1-trifluoropropan-2-ol | N(=[N+]=[N-])CC(C(F)(F)F)O | C3H4F3N3O
